US05371100
Using (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (1.03 g) and purine (500 mg), (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(9H-9-purinyl)ethyl]oxirane (600 mg) was obtained by the same way as in Reference Example 2.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.03 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | purine | 500 mg | N1=CN=C2N=CNC2=C1 | C5H4N4
product | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(9H-9-purinyl)ethyl]oxirane | 600 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1C2=NC=NC=C2N=C1 | C15H12F2N4O
